US03983133
A solution of 6.1 parts of 2-aminoethanol in 16 parts of methanol and 40 parts of ether is cooled on ice. Then there is added dropwise at about 5°C. a solution of 18.4 parts of o-chloro-α-nitrostyrene in 60 parts of ether. Upon completion, stirring in an ice-bath is continued for 1 hour. The reaction mixture is acidified with an excess of 2-propanol previously saturated with gaseous hydrogen chloride. The precipitated product is filtered off, washed thoroughly with ether and dried, yielding 2-{N-[o-choro-α-(nitromethyl)benzyl]amino}ethanol hydrochloride.

reactant | 2-aminoethanol | NCCO | C2H7NO
reactant | methanol | CO | CH4O
reactant | o-chloro-α-nitrostyrene | ClC1=C(C(=C)[N+](=O)[O-])C=CC=C1 | C8H6ClNO2
reactant | hydrogen chloride | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | 2-propanol | CC(C)O | C3H8O
product | 2-{N-[o-choro-α-(nitromethyl)benzyl]amino}ethanol hydrochloride | Cl.ClC1=C(C(C[N+](=O)[O-])NCCO)C=CC=C1 | InChI=1S/C10H13ClN2O3.ClH/c11-9-4-2-1-3-8(9)10(7-13(15)16)12-5-6-14;/h1-4,10,12,14H,5-7H2;1H
